US08044078B2
b.) Ethyl N-1,3-benzothiazol-2-ylglycinate
To the suspension of 0.2 g (5 mmol) 60% sodium hydride in 5 ml dimethylformamide in small portions 0.89 g (5 mmol) 1,3-benzothiazol-2-ylformamide, then after 30 minutes of stirring, dropwise the solution of 0.92 g (5.5 mmol) ethyl bromoacetate in 2 ml dimethylformamide are added and the mixture is stirred at room temperature for 4 hours. The reaction mixture is poured onto ice-water mixture, the precipitated crystals are filtered off. 0.85 g title compound is obtained. LC/MS[MH+]=237 (C11H12N2O2S 236.294). The mixture of N2-1,3-benzothiazol-2-yl-N1-{3-[(3,4-dichlorobenzyl)(methyl)amino]propyl}glicinamide 0.68 g (2.88 mmol) ethyl N-1,3-benzothiazol-2-ylglicinate and 0.81 g (2.88 mmol) N-(3,4-dichlorobenzyl)-N-(methyl)propane-1,3-diamine is heated at 100° C. for 2 hours. The crude melt is purified by column chromatography using chloroform-methanol 19:1 mixture as eluent. 500 mg title compound is obtained as crystals.

reactant | sodium hydride | 5 mmol, 0.2 g | [H-].[Na+]
reactant | 1,3-benzothiazol-2-ylformamide | 5 mmol, 0.89 g | S1C(=NC2=C1C=CC=C2)NC=O | C8H6N2OS
reactant | ethyl bromoacetate | 5.5 mmol, 0.92 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Ethyl N-1,3-benzothiazol-2-ylglycinate | 0.85 g | S1C(=NC2=C1C=CC=C2)NCC(=O)OCC | C11H12N2O2S
